US05175315
cis-1-benzoyl-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one.
To a solution of 2.35 g (10 mmol) of cis-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one in 40 mL of THF at -78° C. was added 6.1 mL (10.07 mmol) of a 1.65M solution of n-butyllithium in hexane. The mixture was stirred for 10 min at -78° C. and a solution of 1.42 g (10.1 mmol) of benzoyl chloride in 10 mL of THF was added. The mixture was stirred at -78° C. for 1 h and diluted with 70 mL of saturated aqueous sodium bicarbonate and extracted with three 50 mL portions of ethyl acetate. The combined ethyl acetate extracts were dried over sodium sulfate and concentrated to give 3.45 g of an oil. Chromatography of the oil on silica gel eluted with ethyl acetate/hexane gave 3.22 g (95%) of cis-1-benzoyl-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one (2) as a colorless oil.

reactant | cis-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one | 10 mmol, 2.35 g | C(C)OC(C)O[C@@H]1C(N[C@@H]1C1=CC=CC=C1)=O | C13H17NO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzoyl chloride | 10.1 mmol, 1.42 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | 70 mL | C([O-])(O)=O.[Na+]
product | cis-1-benzoyl-3-(1-ethoxyethoxy)-4-phenylazetidin-2-one | 3.45 g | C(C1=CC=CC=C1)(=O)N1C([C@H]([C@H]1C1=CC=CC=C1)OC(C)OCC)=O | C20H21NO4
